datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:21])([H:22])[H:23])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:0]([C:1](=[C:2]([H:11])[H:12])[H:10])([H:8])([H:9])[H:15].[C:3](=[C:4]([C:5]([C:6]([C:7]([H:21])([H:22])[H:23])([H:19])[H:20])([H:17])[H:18])[H:16])([H:13])[H:14],224.898368
[C:0]([C:1]([S:2][C:3]([H:9])([H:10])[H:11])([H:7])[H:8])([H:4])([H:5])[H:6].[H:12]>>[C:0]([C:1]([H:7])[H:8])([H:4])([H:5])[H:6].[S:2]([C:3]([H:9])([H:10])[H:11])[H:12],12.552
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]1([H:12])[C:8]([H:13])=[C:9]([H:14])[C:10]([H:15])=[C:11]1[H:16]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[C:7]1([H:12])[C:8]([H:13])=[C:9]([H:14])[C:10]([H:15])=[C:11]1[H:16],-2.092
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[S:8]=[C:9]([C:10]([S:11][H:15])([H:13])[H:14])[H:12]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:13])[H:5].[S:8]=[C:9]([C:10]([S:11][H:15])[H:14])[H:12],19.2464
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])[H:12])([H:9])([H:10])[H:11].[c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])([H:12])[c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29])([H:9])([H:10])[H:11],-1.92464
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5]>>[C:0](#[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])[H:5].[H:4],199.279736
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16](=[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[H:23])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:18]([C:17](=[C:16]([H:20])[H:21])[H:22])([C:19]([H:24])([H:25])[H:26])[H:23])[H:9])[H:8],45.8985
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27][O:28][H:29]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:21][O:27][O:28][H:29],62.751632
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:17])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])[C:6]1([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:11])([H:9])[H:10],104.851
[C:0][H:1].[C:2](=[C:3]([H:5])[H:6])[H:4]>>[C:0]([H:1])[H:5].[C:2](#[C:3][H:6])[H:4],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:29]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:9])([H:10])[H:11].[H:12][H:29],18.706664
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[O:12][H:13]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][O:12][H:13],-11.7152
[C:0]1([H:6])[C:1]([H:7])=[C:2]([H:8])[C:3]2([H:9])[C:4]([H:10])([H:11])[C:5]12[H:12]>>[C:0]1([H:6])=[C:5]([H:12])[C:4]([H:10])([H:11])[C:3]([H:9])[C:2]([H:8])=[C:1]1[H:7],69.8728
[C:0]([O:1][O:2][H:6])([H:3])([H:4])[H:5].[H:7]>>[C:0]([O:1][H:7])([H:3])([H:4])[H:5].[O:2][H:6],28.3773
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11](#[C:12][C:13]([H:15])[H:16])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([C:4]([H:8])([H:9])[H:10])[C:13]([C:12]#[C:11][H:14])([H:15])[H:16])[H:5],48.6599
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])=[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])([H:10])([H:11])[H:12].[H:22]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])[H:22])([H:10])([H:11])[H:12],13.3888
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[C:27]([H:28])([H:29])[H:30]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:19][C:27]([H:28])([H:29])[H:30],47.643208
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[H:8]>>[C:0](#[C:1][C:2](=[C:3][H:7])[H:5])[H:4].[H:6][H:8],51.21216
